US07407971B2
4-(1-Methyl-piperidin-4-yloxy)-benzoic acid methyl ester
To a solution of 1-methyl-piperidin-4-ol (6.8 g, 59 mmoles), PPh3 (triphenylphosphine, 15.5 g, 59 mmoles) and 4-hydroxy-benzoic acid methyl ester (6 g, 39 mmoles) in THF (150 ml) at 0° C., diethyl azodicarboxylate (9.5 ml, 59 mmoles) in THF (30 ml) was slowly added. The reaction mixture was allowed to warm to room temperature over a period of 24 hours. It was then evaporated and the residue redissolved in 5% aqueous citric acid (700 ml). The solution was washed with ethyl acetate (3×250 ml), made alkaline with concentrated NH4OH (pH ˜8) and then extracted with dichloromethane (3×250 ml). The combined dichloromethane extracts were washed with brine, dried and evaporated to give an oil which was purified by flash chromatography on silica gel using dichloromethane-MeOH (90:10) as eluent, to give the title compound as a yellow oil (7.4 g, 75%).

reactant | 1-methyl-piperidin-4-ol | 59 mmoles, 6.8 g | CN1CCC(CC1)O | C6H13NO
reactant | PPh3 | 59 mmoles, 15.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-hydroxy-benzoic acid methyl ester | 39 mmoles, 6 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | diethyl azodicarboxylate | 59 mmoles, 9.5 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(1-Methyl-piperidin-4-yloxy)-benzoic acid methyl ester | 7.4 g, 75% | COC(C1=CC=C(C=C1)OC1CCN(CC1)C)=O | C14H19NO3
